US07709645B2
Methyl chloroformate (0.88 ml, 11.4 mmol) was added to a solution of 2-amino-5-iodo-benzoic acid (2.50 g, 9.5 mmol) and di-iso-propyl ethyl amine (5.96 ml, 34.4 mmol) in dichloromethane (50 ml) and the resulting mixture stirred at room temperature for 4 hours. The solvent was evaporated and the residue used without further purification. MS: m/z 322.1 (M+H+). To this crude was added tetrahydrofuran/acetonitrile/50% w/v potassium carbonate (80 ml), 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (4.80 g, 9.5 mmol). This mixture was degassed with nitrogen, split into 4 portions and irradiated in the microwave to 150° C. for 30 min. The reaction mixtures were then combined and extracted with ethyl acetate (3×), dried over magnesium sulfate, and purified by silica gel chromatography to produce 2-methoxycarbonylamino-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid as a white solid. (2.51 g, 46%). MS: m/z 572.6 (M+H+).

reactant | Methyl chloroformate | 11.4 mmol, 0.88 ml | ClC(=O)OC | C2H3ClO2
reactant | 2-amino-5-iodo-benzoic acid | 9.5 mmol, 2.50 g | NC1=C(C(=O)O)C=C(C=C1)I | C7H6INO2
reactant | di-iso-propyl ethyl amine | 34.4 mmol, 5.96 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium carbonate | 80 ml | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 9.5 mmol, 4.80 g | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-methoxycarbonylamino-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | COC(=O)NC1=C(C(=O)O)C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C30H25N3O7S
